US04523946
A suspension of 20 g of 1-[3'-(2"-chloro-4"-trifluoromethylphenylthio)-phenyl]-4,5-dichloropyridaz-6-one, 5.3 g of sodium methylate and 0.1 g of N-methylpyrrolidone in 150 ml of absolute toluene was kept at 60° C. for 2 hours, while stirring. The solution formed was diluted with 200 ml of ether, treated with twice 100 ml of water, dried, filtered and evaporated down under reduced pressure. The oily residue was triturated with diisopropyl ether, and the product was filtered off under suction. 15.7 g (80% of theory) of 1-[3'-(2"-chloro-4"-trifluoromethylphenylthio)-phenyl]-4,5-dimethoxypyridaz-6-one of melting point 86° to 90° C. were obtained.

reactant | 1-[3'-(2"-chloro-4"-trifluoromethylphenylthio)-phenyl]-4,5-dichloropyridaz-6-one | 20 g | ClC1=C(C=CC(=C1)C(F)(F)F)SC=1C=C(C=CC1)N1N=CC(=C(C1=O)Cl)Cl | C17H8Cl3F3N2OS
reactant | sodium methylate | 5.3 g | C[O-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | N-methylpyrrolidone | 0.1 g | CN1C(CCC1)=O | C5H9NO
product | 1-[3'-(2"-chloro-4"-trifluoromethylphenylthio)-phenyl]-4,5-dimethoxypyridaz-6-one | 15.7 g, 80% | ClC1=C(C=CC(=C1)C(F)(F)F)SC=1C=C(C=CC1)N1N=CC(=C(C1=O)OC)OC | C19H14ClF3N2O3S
